US07772253B2
4-{[6-(tert-Butoxycarbonyl-methyl-amino)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester
The above prepared 4-[(6-tert-butoxycarbonylamino-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester (0.720 g, 1.71 mmol) was dissolved in 30 ml of abs. THF and treated at 0° C. with sodium hexamethyldisilazide-solution (1M in THF, 1.05 eq.) and, after 15 Min., 50 eq. of methyl iodide (5.33 ml). The mixture was allowed to react for six days! Pouring onto crashed ice/NH4Cl, twofold extraction with AcOEt, washing with water and brine, drying over magnesium sulfate, and evaporation of the solvents, followed by flash chromatography (silica gel, hexane/AcOEt=55/45) yielded eventually 0.497 g of the title compound as white foam.

reactant | 4-[(6-tert-butoxycarbonylamino-pyridine-3-carbonyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | 1.71 mmol, 0.720 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C=NC(=CC1)NC(=O)OC(C)(C)C | C21H32N4O5
reactant | sodium hexamethyldisilazide | 1M, 1.05 eq. | C[Si]([N-][Si](C)(C)C)(C)C.[Na+]
reactant | methyl iodide | 5.33 ml, 50 eq. | CI | CH3I
solvent | THF | C1CCOC1 | C4H8O
product | 4-{[6-(tert-Butoxycarbonyl-methyl-amino)-pyridine-3-carbonyl]-amino}-piperidine-1-carboxylic acid tert-butyl ester | 0.497 g | C(C)(C)(C)OC(=O)N1CCC(CC1)NC(=O)C=1C=NC(=CC1)N(C)C(=O)OC(C)(C)C | C22H34N4O5
